US07435837B2
Treatment of (±)-(7-amino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.96 g, 3.0 mmol) with 1-bromo-4-chlorobenzene (0.570 g, 3.0 mmol) generally according to the procedure described for Intermediate 37 provided 0.77 g (57%) of (±)-{7-[(4-chlorophenyl)amino]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate as a white solid. mp 132-134° C.

reactant | (±)-(7-amino-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.0 mmol, 0.96 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2N | C16H17NO4S
reactant | 1-bromo-4-chlorobenzene | 3.0 mmol, 0.570 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
product | (±)-{7-[(4-chlorophenyl)amino]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 0.77 g, 57% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2NC2=CC=C(C=C2)Cl | C22H20ClNO4S
